US04436748
A solution of 3.7 g of 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-methylbenzo[b]thiophene in 20 ml of glacial acetic acid containing 5 ml of boron trifluoride etherate is warmed on a steam bath for 5 min. to form a clear solution. After stirring at room temperature for 1 hour, the solution is poured into an ice-cold solution of 10% sodium hydroxide. The organic materials are extracted 3 times with ether, dried and concentrated under vacuum. The reddish brown residue is purified by dissolving it in ether and passing it through an alumina column packed with ether. Elution with ether gives 2.1 g of 6,7-dichloro-5-methoxy-2-methylbenzo[b]thiophene as off-white crystals, mp 113°-114°.

reactant | 6,7-dichloro-2,3-dihydro-3-hydroxy-5-methoxy-2-methylbenzo[b]thiophene | 3.7 g | ClC=1C(=CC2=C(SC(C2O)C)C1Cl)OC | C10H10Cl2O2S
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-5-methoxy-2-methylbenzo[b]thiophene | 2.1 g | ClC=1C(=CC2=C(SC(=C2)C)C1Cl)OC | C10H8Cl2OS
